US05859007
In a sealed flask were combined 12.99 g (83.2 mmol) 2,4-Difluoroacetophenone, 8.80 g (274 mmol, 3.3 equiv) Hydrazine and 8.7 mL EtOH and heated at 150° C. for 18 h. The resultant solid is dissolved in 150 mL EtOH, precipitated with 500 mL H2O, cooled, filtered, air and pump dried to give 8.56 g (57.0 mmol) 6-Fluoro-3-methyl-1H-indazole which is used without characterization. The material thus obtained is combined with 6.35 g (62.7 mmol, 1.1 equiv) Et3N and 1.39 g (11.4 mmol, 0.2 equiv) DMAP in 110 mL CH3CN cooled to 0° C. 14.93 g (68.4 mmol, 1.2 equiv) (BOC)2O in 80 mL CH3CN is added dropwise with stirring at 0° C. and the resultant reaction mixture stirred 2 h at 0° C. followed by 18 h at ambient temperature. The solvent is removed in vacuo and the crude material partitioned between EtOAc (200 mL) and H2O (100 mL). The pH is adjusted to 2.0 with 1N HCl, the organic phase separated, dried (MgSO4), filtered and concentrated in vacuo to an orange solid which is purified by filtration through a pad of 60 g silica gel eluted with 1.2 L DCM. The filtrate is concentrated in vacuo to give 12.68 g (50.7 mmol) of 6-Fluoro-3-methyl-indazole-1-carboxylic acid tert-butyl ester as a tan crystalline solid: 1H NMR (CDCl3, 300 MHz) δ7.78 (d, 1H, J=9.8), 7.57 (m, 1H), 7.07 (m, 1H), 2.57 (s, 3H), 1.72 (s, 9H); TLC Rf =0.52 (DCM).

reactant | 2,4-Difluoroacetophenone | 83.2 mmol, 12.99 g | CC(=O)C1=C(C=C(C=C1)F)F | C8H6F2O
reactant | Hydrazine | 274 mmol, 8.80 g, 3.3 equiv | NN | H4N2
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | EtOH | 8.7 mL | CCO | C2H6O
product | 6-Fluoro-3-methyl-1H-indazole | 57.0 mmol, 8.56 g | FC1=CC=C2C(=NNC2=C1)C | C8H7FN2
